US06818774B2
6-(3-Fluoro-benzyloxy)-2-(2-methoxy-1-methyl-ethyl)-3,4-dihydro-2H-isoquinolin-1-one
To a mixture of 6-(3-Fluoro-benzyloxy)-2-(2-hydroxy-1-methyl-ethyl)-3,4-dihydro-2H-isoquinolin-1-one (0.020 g, 0.061 mmol) and sodium hydride (55%, 2.2 mg, 0.067 mmol) in N,N′-dimethylformamide (0.2 mL), methyl iodide (0.009 mL, 0.152 mmol) was added. Water was added and the reaction was extracted with ethyl acetate. After drying of the organic layer with MgSO4, filtration and evaporation, the residue was purified by chromatography (SiO2, hexane/ethyl acetate 9:1 v:v) to give the title compound as a white solid (0.0095 g, 43%). MS: m/e=344.4 (M+H+).

reactant | 6-(3-Fluoro-benzyloxy)-2-(2-hydroxy-1-methyl-ethyl)-3,4-dihydro-2H-isoquinolin-1-one | 0.061 mmol, 0.020 g | FC=1C=C(COC=2C=C3CCN(C(C3=CC2)=O)C(CO)C)C=CC1 | C19H20FNO3
reactant | sodium hydride | 0.067 mmol, 2.2 mg | [H-].[Na+]
reactant | methyl iodide | 0.152 mmol, 0.009 mL | CI | CH3I
reactant | Water | O | H2O
solvent | N,N′-dimethylformamide | 0.2 mL | CN(C)C=O | C3H7NO
product | 6-(3-Fluoro-benzyloxy)-2-(2-methoxy-1-methyl-ethyl)-3,4-dihydro-2H-isoquinolin-1-one | 0.0095 g, 43% | FC=1C=C(COC=2C=C3CCN(C(C3=CC2)=O)C(COC)C)C=CC1 | C20H22FNO3
